US09428477B2
Production of 4-((E)-2-decenoyl)thiomorpholine [Compound 18]
The same procedures as in Example 1 were carried out using (E)-2-decenoic acid and thiomorpholine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 4-((E)-2-decenoyl)thiomorpholine | C(\C=C\CCCCCCC)(=O)N1CCSCC1 | C14H25NOS
